US09371319B2
Preparation 109: 1-(3-Methoxy-4-nitrophenyl)-N,N-dimethylmethanamine
To a stirred solution of 4-(bromomethyl)-2-methoxy-1-nitrobenzene (Preparation 104, 0.2 g, 0.813 mmol) in dry THF (5 ml), was added triethylamine (0.1 g, 1 mmol) followed by a solution of dimethylamine in THF (0.5 ml of a 2M solution, 1 mmol). After stirring for 1 hour at room temperature, the solvent was removed in vacuum and the crude product was purified by silica gel column chromatography eluting with 10% methanol in ethyl acetate to afford the title compound as a white powder (0.16 g, 94%).

reactant | 4-(bromomethyl)-2-methoxy-1-nitrobenzene | 0.813 mmol, 0.2 g | BrCC1=CC(=C(C=C1)[N+](=O)[O-])OC | C8H8BrNO3
reactant | triethylamine | 1 mmol, 0.1 g | C(C)N(CC)CC | C6H15N
reactant | dimethylamine | CNC | C2H7N
solvent | THF | 5 ml | C1CCOC1 | C4H8O
product | 1-(3-Methoxy-4-nitrophenyl)-N,N-dimethylmethanamine | 0.16 g, 94% | COC=1C=C(C=CC1[N+](=O)[O-])CN(C)C | C10H14N2O3
